US05043447
27 Grams (0.13 mol) of 2-phenyl-4-(1-hydroxyethyl)-5-methylimidazole were dissolved in 700 ml of chloroform with 44 ml (0.6 mol) of thionyl chloride and refluxed for 5 hours. After cooling, the mixture was evaporated, the residue triturated in acetone, thereby giving, in approximately stoichiometric yield, 2-phenyl-4-(1-chloroethyl)-5-methylimidazole hydrochloride, m.p. 190° C.

reactant | 2-phenyl-4-(1-hydroxyethyl)-5-methylimidazole | 0.13 mol | C1(=CC=CC=C1)C=1NC(=C(N1)C(C)O)C | C12H14N2O
reactant | thionyl chloride | 0.6 mol, 44 ml | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 700 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-phenyl-4-(1-chloroethyl)-5-methylimidazole hydrochloride | Cl.C1(=CC=CC=C1)C=1NC(=C(N1)C(C)Cl)C | InChI=1S/C12H13ClN2.ClH/c1-8(13)11-9(2)14-12(15-11)10-6-4-3-5-7-10;/h3-8H,1-2H3,(H,14,15);1H
